US07256201B2
2) Synthetic Method G: Synthesis of N-(4-methoxy-phenyl)-N-[2-(3-methoxy-phenyl)-ethyl]-acetamide
(4-Methoxy-phenyl)-[2-(3-methoxy-phenyl)-ethyl]-amine (3.87 mmol) and acetyl chloride (4.26 mmol) were reacted ethyl acetate (50 mL). After 18 hours, the reaction was poured into ice (150 mL) and the organic extract was dried over sodium sulfate, filtered through celite and concentrated. The title compound (0.60 g) was obtained after silica gel chromatography (eluant: gradient from 10% to 40% ethyl acetate-hexane); MS: 300.4 (MH+); HPLC tR: 2.65 min; TLC Rf: 0.19 (ethyl acetate-hexane 2:3).

reactant | (4-Methoxy-phenyl)-[2-(3-methoxy-phenyl)-ethyl]-amine | 3.87 mmol | COC1=CC=C(C=C1)NCCC1=CC(=CC=C1)OC | C16H19NO2
reactant | acetyl chloride | 4.26 mmol | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-methoxy-phenyl)-N-[2-(3-methoxy-phenyl)-ethyl]-acetamide | 0.60 g | COC1=CC=C(C=C1)N(C(C)=O)CCC1=CC(=CC=C1)OC | C18H21NO3
